US07915443B2
N-[(4-{3-[(2,3-dihydroxypropyl)(methyl)amino]-3-oxopropyl}phenyl)-(methyl)oxido--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}-ethynyl)nicotinamide
In a manner similar to that described in Example 485, 3-[4-(S-methyl-N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}-ethynyl)pyridin-3-yl]carbonyl}sulfonimidoyl)-phenyl]propanoic acid (0.050 g, 0.090 mmol) and 3-methylamino-propane-1,2-diol (0.050 mL, 0.520 mmol) were reacted to give the title compound (0.020 g, 35%).

reactant | 3-[4-(S-methyl-N-{[5-({3-[(3-methyl-2-furoyl)amino]phenyl}-ethynyl)pyridin-3-yl]carbonyl}sulfonimidoyl)-phenyl]propanoic acid | 0.090 mmol, 0.050 g | CS(=O)(=NC(=O)C=1C=NC=C(C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)C1=CC=C(C=C1)CCC(=O)O | C30H25N3O6S
reactant | 3-methylamino-propane-1,2-diol | 0.520 mmol, 0.050 mL | CNCC(CO)O | C4H11NO2
product | N-[(4-{3-[(2,3-dihydroxypropyl)(methyl)amino]-3-oxopropyl}phenyl)-(methyl)oxido--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}-ethynyl)nicotinamide | 0.020 g, 35% | OC(CN(C(CCC1=CC=C(C=C1)S(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(=O)C)=O)C)CO | C34H34N4O7S
